US08067457B2
To a solution of rel-N-[(3R,4R)-4-(allyloxy)-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]-2-[4-(trifluoromethyl)-1H-benzimidazol-2-yl]acetamide in methanol was added Pd/C and the reaction was exposed to 1 atm H2 overnight. The reaction mixture was filtered and concentrated to afford rel-N-[(3R,4R)-4-propoxy-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]-2-[4-(trifluoromethyl)-1H-benzimidazol-2-yl]acetamide as a white solid. 1H-NMR (CDCl3) δ: 0.87 (t, 3H), 1.48-1.58 (m, 4H), 1.74 (m, 2H), 1.89 (m, 2H), 2.24-2.35 (m, 2H), 2.73 (m, 2H), 3.31-3.40 (m, 4H), 3.56 (m, 1H), 3.73 (m, 1H), 3.92-3.98 (m, 2H), 3.92 (s, 2H), 4.28 (m, 1H), 7.14 (b, 1H), 7.30 (t, J=7.9 Hz, 1H), 7.49 (d, J=7.3 Hz, 1H). MS m/z: 455 (M+1).

reactant | rel-N-[(3R,4R)-4-(allyloxy)-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]-2-[4-(trifluoromethyl)-1H-benzimidazol-2-yl]acetamide | C(C=C)O[C@H]1[C@@H](CN(C1)C1CCOCC1)NC(CC1=NC2=C(N1)C=CC=C2C(F)(F)F)=O | C22H27F3N4O3
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | rel-N-[(3R,4R)-4-propoxy-1-(tetrahydro-2H-pyran-4-yl)pyrrolidin-3-yl]-2-[4-(trifluoromethyl)-1H-benzimidazol-2-yl]acetamide | C(CC)O[C@H]1[C@@H](CN(C1)C1CCOCC1)NC(CC1=NC2=C(N1)C=CC=C2C(F)(F)F)=O | C22H29F3N4O3
